US07598383B2
Step B: Preparation of 4-hydroxy-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid methyl ester:
A mixture of 3-oxo-2-(phenyl-hydrazono)-pentanedioic acid dimethyl ester (4.38 g, 15.7 mmol) in 1,2-dichlorobenzene (15 mL) was refluxed. After 20 hours, the reaction mixture was concentrated under reduced pressure to give 3.83 g (99%) of the desired product.

reactant | 3-oxo-2-(phenyl-hydrazono)-pentanedioic acid dimethyl ester | 15.7 mmol, 4.38 g | COC(C(C(CC(=O)OC)=O)=NNC1=CC=CC=C1)=O | C13H14N2O5
solvent | 1,2-dichlorobenzene | 15 mL | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 4-hydroxy-6-oxo-1-phenyl-1,6-dihydropyridazine-3-carboxylic acid methyl ester | 3.83 g, 99% | COC(=O)C1=NN(C(C=C1O)=O)C1=CC=CC=C1 | C12H10N2O4
